US08614328B2
A solution of 3-(3-chloro-benzo[b]thiophen-2-ylmethoxy)-phthalic acid dimethyl ester (1.9 g, 4.8 mmol) in reagent alcohol (120 mL) and 3 N sodium hydroxide (60 mL) was refluxed for two hours. The solution was evaporated and the residue was dissolved in water (100 mL) and washed with methylene chloride (3×100 mL) then acidified to pH around 4. The resulting mixture was extracted with ethyl acetate (2×100 mL) and the combined organic layers was washed with water (2×100 mL), dried and concentrated to give 3-(3-chloro-benzo[b]thiophen-2-ylmethoxy)-phthalic acid as an off-white solid (1.6 g, 92% yield). The product was used in the next step without further purification.

reactant | 3-(3-chloro-benzo[b]thiophen-2-ylmethoxy)-phthalic acid dimethyl ester | 4.8 mmol, 1.9 g | COC(C=1C(C(=O)OC)=C(C=CC1)OCC1=C(C2=C(S1)C=CC=C2)Cl)=O | C19H15ClO5S
solvent | sodium hydroxide | 3 N, 60 mL | [OH-].[Na+]
product | 3-(3-chloro-benzo[b]thiophen-2-ylmethoxy)-phthalic acid | 1.6 g, 92% yield | ClC=1C2=C(SC1COC1=C(C(C(=O)O)=CC=C1)C(=O)O)C=CC=C2 | C17H11ClO5S
